US05137886
(i) 2-benzylthio-6-fluoropyridine
A solution of benzylthiol (5.4 g) in tetrahydrofuran (25 cm3) was added dropwise to a stirred suspension of sodium hydride (1.9 g of a 55% of a dispersion in oil) in tetrahydrofuran (350 cm3) under a nitrogen atmosphere. The mixture was stirred for 30 minutes and a solution of 2,6-difluoropyridine (5 g) in tetrahydrofuran (25 cm3) was added dropwise. The mixture was stirred for a further 3 hours and then carefully quenched with water. The products were extracted into diethyl ether and the combined ether extracts were washed with water and brine solution, then dried over anhydrous magnesium sulphate, filtered and concentrated by evaporation under reduced pressure. The residual dark liquid was purified by chromatography on a silica gel support, eluting with hexane containing 5% by volume ethyl acetate. Fractions containing 15-20 cm3 of eluent were collected separately during the elution, the product being collected in fractions 11 to 19. Evaporation of the eluent gave the title product (7.1 g) as a clear liquid.

reactant | benzylthiol | 5.4 g | C1=CC=C(C=C1)CS | C7H8S
reactant | sodium hydride | [H-].[Na+]
reactant | 2,6-difluoropyridine | 5 g | FC1=NC(=CC=C1)F | C5H3F2N
solvent | tetrahydrofuran | 25 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 350 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 cm3 | O1CCCC1 | C4H8O
product | 2-benzylthio-6-fluoropyridine | 7.1 g | C(C1=CC=CC=C1)SC1=NC(=CC=C1)F | C12H10FNS
